US04507298
4-{4-[4-(1-Imidazolyl)-butyl]-phenyl}-4-oxo-butyric acid methyl ester
20.3 g of succinic acid methyl ester chloride and then a solution of 27 g of 1-(4-phenylbutyl)-imidazole in 100 ml of 1,2-dichloroethane are added dropwise to a suspension of 59.3 g of aluminium chloride in 200 ml of 1,2-dichloroethane, whilst cooling with ice. The mixture is then stirred at 85° C. for 3 hours. After it has been cooled, the reaction mixture is stirred into a mixture of 165.7 g of ethylenediaminetetraacetic acid and 600 g of ice and is brought to about pH 8 by addition of dilute sodium hydroxide solution. The phases are separated and the organic phase is dried over Na2SO4 and concentrated. The residue is purified by column chromatography (silica gel/chloroform).

reactant | succinic acid methyl ester chloride | 20.3 g | [Cl-].COC(CCC(=O)O)=O
reactant | 1-(4-phenylbutyl)-imidazole | 27 g | C1(=CC=CC=C1)CCCCN1C=NC=C1 | C13H16N2
reactant | aluminium chloride | 59.3 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | ethylenediaminetetraacetic acid | 165.7 g | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
reactant | sodium hydroxide | [OH-].[Na+]
solvent | 1,2-dichloroethane | 100 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 200 ml | ClCCCl | C2H4Cl2
product | 4-{4-[4-(1-Imidazolyl)-butyl]-phenyl}-4-oxo-butyric acid methyl ester | COC(CCC(=O)C1=CC=C(C=C1)CCCCN1C=NC=C1)=O | C18H22N2O3
